US07687646B2
To a suspension of 4-(2-carboxybenzyloxy)phenylacetic acid (Olo-IM1) (300.09 g, 1.04 mol; assay: 99.0%) and trifluoromethane sulfonic acid (4.77 g, 0.03 mol; assay: 98.0%) in toluene (1122 g) was added slowly trifluoroacetic anhydride (255.18 g, 1.20 mol; assay: 99.0%) at 20-35° C. The brown solution was stirred after complete addition of trifluoroacetic anhydride for 1 hour at 20-25° C. and the mixture was then hydrolyzed with water (99.0 g). Afterwards, the mixture was distilled under normal pressure until the steam temperature was 105-110° C. (1191 g two-phase distillate). The residue was diluted with toluene (261 g) and the suspension was heated to reflux. The dark solution was then cooled to 75° C. and seeded with crystals of 6,11-dihydro-11-oxo-dibenz[b,e]oxepin-2-acetic acid (Olo-IM2). The suspension was stirred after cooling to 20-25° C. for additional 1-2 hours at this temperature. The product was filtered off, washed with cyclohexane (600 g) and water (390 g) and dried under vacuum (20 h, 50° C.) to give 6,11-dihydro-11-oxo-dibenz[b,e]oxepin-2-acetic acid (Olo-IM2) (yield: 203.21 g, 0.76 mol, 73.0%; HPLC assay >99.5%, HPLC purity: 99.62%). This product was then recrystallized from a mixture of cyclohexane (700 g) and toluene (1892 g). After filtration the wet product was washed with cyclohexane (466 g) and dried under vacuum (15 h, 70° C.) to give slightly gray colored 6,11-dihydro-11-oxo-dibenz[b,e]oxepin-2-acetic acid (Olo-IM2) (yield: 198.4 g, 0.74 mol, 97.6%; HPLC assay >99.5%, HPLC purity: 99.90%; overall yield: 71.3%).

reactant | 4-(2-carboxybenzyloxy)phenylacetic acid | 1.04 mol, 300.09 g | C(=O)(O)C1=C(COC2=CC=C(C=C2)CC(=O)O)C=CC=C1 | C16H14O5
reactant | trifluoroacetic anhydride | 1.20 mol, 255.18 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | 99.0 g | O | H2O
solvent | toluene | 1122 g | C1(=CC=CC=C1)C | C7H8
catalyst | trifluoromethane sulfonic acid | 0.03 mol, 4.77 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
product | 6,11-dihydro-11-oxo-dibenz[b,e]oxepin-2-acetic acid | 0.76 mol, yield: 203.21 g | O=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)CC(=O)O | C16H12O4
